US05070161
1-(4-methoxybenzyl-2-chloropyridinium hexafluoroantimonate
4,698 g (0.03 mol) of 4-methoxybenzyl chloride and 10.22 g (0.09 mol) of 2-chloropyridine were reacted in 40 ml of methanol at 40° C. for 3 days. After the reaction, the solvent was evaporate in vacuo and ether-water was added to the residue to extract unreacted reactants in the etherial layer. To the aqueous layer containing the pyridinium chloride was added 7.764 g (0.03 mol) of sodium hexafluoroantimonate. The resulting crystals were suction filtered, washed and dried to give the title compound melting at 122°-124° C.

reactant | 4-methoxybenzyl chloride | 0.03 mol, 4,698 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | 2-chloropyridine | 0.09 mol, 10.22 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | sodium hexafluoroantimonate | 0.03 mol, 7.764 g | F[Sb-](F)(F)(F)(F)F.[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 4-methoxybenzyl-2-chloropyridinium hexafluoroantimonate | F[Sb-](F)(F)(F)(F)F.COC1=CC=C(C[N+]2=C(C=CC=C2)Cl)C=C1 | InChI=1S/C13H13ClNO.6FH.Sb/c1-16-12-7-5-11(6-8-12)10-15-9-3-2-4-13(15)14;;;;;;;/h2-9H,10H2,1H3;6*1H;/q+1;;;;;;;+5/p-6
